US04348320
Following the procedure described for the preparation of 8-oxo-7-acetoxymethylene-2,2-dimethyl-3-oxa-1-azabicyclo[4.2.0]octane from 8-oxo-2,2-dimethyl-3-oxa-1-azabicyclo[4.2.0]octane and using N,N-dimethylacetamide instead of N,N-dimethylformamide one obtains 8-oxo-7-(1'-acetoxyethylidene)-2,2-dimethyl-3-oxa-1-azabicyclo[4.2.0]octane.

reactant | 8-oxo-7-acetoxymethylene-2,2-dimethyl-3-oxa-1-azabicyclo[4.2.0]octane | O=C1C(C2CCOC(N12)(C)C)=COC(C)=O | C11H15NO4
reactant | 8-oxo-2,2-dimethyl-3-oxa-1-azabicyclo[4.2.0]octane | O=C1CC2CCOC(N12)(C)C | C8H13NO2
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 8-oxo-7-(1'-acetoxyethylidene)-2,2-dimethyl-3-oxa-1-azabicyclo[4.2.0]octane | O=C1C(C2CCOC(N12)(C)C)=C(C)OC(C)=O | C12H17NO4
